US07091353B2
3-(3-Chloro-benzylamino)-phthalic acid
3-(3-Chloro-benzylamino)-phthalic acid dimethyl ester (1.61 g, 4.8 mmol) was treated in the same manner as described above for the synthesis of 3-(2-methoxy-ethylamino)-phthalic acid. The product of the reaction, which contained a mixture of diacid and monomethyl esters, was used without further purification.

reactant | 3-(3-Chloro-benzylamino)-phthalic acid dimethyl ester | 4.8 mmol, 1.61 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCC1=CC(=CC=C1)Cl)=O | C17H16ClNO4
reactant | 3-(2-methoxy-ethylamino)-phthalic acid | COCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H13NO5
product | 3-(3-Chloro-benzylamino)-phthalic acid | ClC=1C=C(CNC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C15H12ClNO4
